US04588722
A mixture of 4.7 parts of 1-(2-chloroethyl)-4-methoxybenzene, 14 parts of N-(4-piperidinyl)-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine dihydrobromide.monohydrate, 15 parts of sodium carbonate, 0.3 parts of sodium iodide and 90 parts of N,N-dimethylacetamide was stirred overnight at 80° C. Water was added and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The oily residue was converted into the hydrobromide salt in ethanol. The salt was filtered off and dried, yielding 9 parts of N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-1-(4-thiazolyl)-methyl)-1H-benzimidazol-2-amine dihydrobromide. dihydrate; mp. 239.2° C. (compound 17).

reactant | 1-(2-chloroethyl)-4-methoxybenzene | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | N-(4-piperidinyl)-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine dihydrobromide | Br.Br.N1CCC(CC1)NC1=NC2=C(N1CC=1N=CSC1)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 1H-benzimidazol-2-amine dihydrobromide | Br.Br.N1C(=NC2=C1C=CC=C2)N | InChI=1S/C7H7N3.2BrH/c8-7-9-5-3-1-2-4-6(5)10-7;;/h1-4H,(H3,8,9,10);2*1H
